US08138205B2
Sodium hydride (60%, 14 g, 350 mmol) was added (caution: H2 gas evolution) to a solution of 4-amino-8-(cyclopropylmethoxy)-7-methoxyquinolin-2(1H)-one (18 g, 69 mmol) and DMSO (200 mL) under N2. After 1 h at room temperature, 3,4,5-trichloropyridine (12.6 g, 69 mmol) was added portionwise with external cooling (internal temperature kept below 30° C.), and the reaction was warmed at 32° C. overnight. The reaction was quenched with water (40 mL) and adjusted to pH=6, with saturated potassium phosphate (KH2PO4). The resulting solids were collected by filtration, purified by silica gel chromatography (100:1; dichloromethane/methanol), and then triturated with ethyl acetate (300 mL) to give 22 g of 8-(cyclopropylmethoxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-quinolin-2(1H)-one as a straw yellow solid. MS (ESI): 406.1.

reactant | Sodium hydride | 350 mmol, 14 g | [H-].[Na+]
reactant | 4-amino-8-(cyclopropylmethoxy)-7-methoxyquinolin-2(1H)-one | 69 mmol, 18 g | NC1=CC(NC2=C(C(=CC=C12)OC)OCC1CC1)=O | C14H16N2O3
reactant | 3,4,5-trichloropyridine | 69 mmol, 12.6 g | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | 8-(cyclopropylmethoxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-quinolin-2(1H)-one | 22 g | C1(CC1)COC=1C(=CC=C2C(=CC(NC12)=O)NC1=C(C=NC=C1Cl)Cl)OC | C19H17Cl2N3O3
